US08633319B2
Preparation of 1-(1,1-Dimethylethyl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (Intermediate 11)
To a 20 L four-neck bottle, 4-bromo-(tert-butyl)pyrazole (1.15 kg, 5.66 mol) and THF (9.2 L) were added, then the mixture was cooled to between −78° C. and −85° C. and treated with nBuLi (6.23 mol) dropwise at that temperature. After addition the solution was stirred at the same temperature for 1 h and isopropyl pinacol borate (1.47 kg, 7.92 mol) was added dropwise. The reaction was complete after stirring for ˜3 h (starting material<1.0% a/a by GC) then water (2.3 L) was added to quench the reaction; and the pH adjusted to 8-9 by addition of 3.45 kg 1M HCl. The aqueous phase was extracted with TBME (3.45 L×2), and the combined organic phase washed with 5% NaCl (3.45 L×2) and water (3.45 L) in sequence. The organic phase was evaporated to give the crude product. After subsequent recrystallization from heptanes the pure product was obtained as a white solid (GC purity 99.7% a/a) in a 63.5% th overall yield. (Two 20 L reactions were run, then combined in the heptane recrystallization).

reactant | 4-bromo-(tert-butyl)pyrazole | 5.66 mol, 1.15 kg | BrC=1C(=NNC1)C(C)(C)C | C7H11BrN2
reactant | nBuLi | 6.23 mol | [Li]CCCC
reactant | isopropyl pinacol borate | 7.92 mol, 1.47 kg | B(O)(O)O.C(C)(C)CC(O)(C)C(C)(C)O
reactant | HCl | 1M, 3.45 kg | Cl | ClH
reactant | THF | 9.2 L | C1CCOC1 | C4H8O
solvent | water | 2.3 L | O | H2O
product | 1-(1,1-Dimethylethyl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | CC(C)(C)N1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C13H23BN2O2
